US08895547B2
(S)-3-[5-(3-Bromophenyl)-5-fluoro-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol
In a round-bottom flask, 42 mg of 5-(3-bromophenyl)-2-ethoxy-5-fluoro-6,6-dimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide was dissolved under inert gas in 0.2 ml of dichloromethane and admixed with 20 mg of (S)-3-amino-3-phenylpropan-1-ol. After stirring at room temperature for 18 hours, the conversion was checked by LCMS. Since only traces of the product had formed, the reaction mixture was stirred at 100° C. for a further 4.5 hours. After the removal of the solvent under reduced pressure, the crude product was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic phase was dried over MgSO4 and concentrated by rotary evaporation, and the residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (13.1 mg) with a molecular weight of 485.4 g/mol (C20H22BrFN2O4S); MS (ESI): m/e=485 (M+H+).

reactant | (S)-3-amino-3-phenylpropan-1-ol | 20 mg | N[C@@H](CCO)C1=CC=CC=C1 | C9H13NO
reactant | 5-(3-bromophenyl)-2-ethoxy-5-fluoro-6,6-dimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 42 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)OCC)(=O)=O)F | C13H15BrFNO4S
solvent | dichloromethane | 0.2 ml | ClCCl | CH2Cl2
product | (S)-3-[5-(3-Bromophenyl)-5-fluoro-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol | 13.1 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O)F | C20H22BrFN2O4S
